data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9022,"CO.COC1=C2OC3C(=[O:1])CCC4C5CC(=C2C34CC[NH2+]5)C=C1.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6357,"CCOCC.COC1=CC(CC(O)CCOCC2=CC=CC=C2)=C(OC)C2=CC=CC(OC)=C12.COC[O:1]C.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,8451,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O=C1CCC2CCCC(=[O:1])C2C1[CH:2]=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1952,"CO[C:1](O)([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7546,"C=[O+][Si:1](C)(C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,5224,"O[CH:1]([C:2](Br)(Br)Br)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6232,"C[C+:1]=O.N#CC1=CO[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,4281,"CCOC(=O)CC1(CC(=O)OCC)OCC[O+:1]1[H:2].CCOCC.F[B-](F)(F)[OH:3].OCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6558,"C[C:1](OC1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1757,"CC(C)[C:1]([CH:2](C)[H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8031,"C=C.CC(CCC1CCCC1)[NH:1]C(=O)[O-].CCCC[N+:2](CCCC)(CCCC)[H:3].CCCC[N+](CCCC)(CCCC)CCCC.C[Si](C)(C)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7049,"CCN1CCC23C4=C5C=CC(OC)=C4OC2C([NH2+]N)([O-:1])CCC3(O)C1C5.OCCOCCO.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7485,"C1CNC2=[N:1]CCCN2C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8748,"CC(C)[C:1]1([H:2])C=C[C+:3](C(C)(C)C)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,5535,"C1COCCO1.CC(C)CC(CC1CCCCC1)[OH:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3405,"CC(=O)CCC(C)(O)[NH+:1](C1=CC([N+](=O)[O-])=CC=C1)[H:2].CC1=CC=C(S(=O)(=O)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9957,"C[C+:1]=O.O=[N+]([O-])C1=CC=C2C=C[CH:2]=[CH:3]C2=C1|((2, 3), 1)"
train,pmechdb_split_0,0,852,"COC1=C(OC)C=C2C(=C1)OC1=C(C=CC=C1OCC1=CC=CC=C1)C2CN(C)C(=O)[CH:1]([S+](C)OC(=O)C(F)(F)F)[H:2].O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3725,"OC12CCCCC1CCC[NH:1]2.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2181,"O=C1NC2=C(N=C[N+:1]([H:2])=C2NCC2=CC(Br)=C(O)C(Br)=C2)N1C1OC(CO)C(O)C1O.[Br-].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2702,"C[S+:1]([NH-])[OH:2]|(2, 1)"
train,pmechdb_split_0,0,7078,"CC1(O)CCC[C:1](=[O:2])[CH:3]1[H:4].CC[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6255,"CC(=O)[O-:1].N=C1C=CC=CC1C1C(=[NH+:2][H:3])CCC2CCN(CCS(=O)C3=CC=CC=C3)C21.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4309,"C#CCOC(=O)C1(C)C[OH+:1][C:2](C)(C)[O:3]C1.CO.O.O=S(=O)([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4560,"CCOC(O)(CCC(=O)NC)[O:1]C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8319,"C#[C:1][Na:2].CC12CCC3C4=C(C=C([O][Na])C=C4)CCC3C1CC[C:3]2=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9619,"O=S(=O)(O)[O:1][H:2].OC[CH:3]=[C:4](O)[OH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8541,"C[O-:1].C[P+:2](C)(C)[O:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,3711,"C[CH+:1][CH:2](C=O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3339,"O=C(O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1)C1=CC=CC=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,9340,"CCC[C:1](C(O)C1=CC=C([N+](=O)[O-])C=C1)([H:2])[C:3](C1=C(O)C=CC(Br)=C1)=[N+:4]1CCCC1C1=NN=NN1.O=C([O-])C(F)(F)F.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,427,"COC1=C2OC3C(=[N+:1](N)[H:2])CCC4(O)C5CC(=C2C34CCN5CCC2=CC=CC=C2)C=C1.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2231,"CCCC1=CC(C)=C([O+](C)[B:1](Br)Br)C=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6697,"CC1(C)OC(=O)[CH:1]=[C:2]([O-:3])O1.CC[CH:4]=[N+:5](C)CC(=O)O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7746,"C=CC1(C)CCC2(C)C(=C)C1C([O+:1]([Si](C)(C)C)[Zn-:2]([Cl])[Cl])CC2C.[Cl-]|((2, 1), 1)"
train,pmechdb_split_0,0,2540,"CCCC(CC(=O)CC)=[O+:1][H:2].CC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7602,"CC[NH:1]CC.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3712,"COC(=O)C12CC(=O)CCC13N(CCC1=C[C:1](=[O+:2]C)[C:3](OC)=[CH:4][C:5]13[H:6])C(=O)C2.O=P(O)(O)OP(=O)(O)[O-:7]|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6019,"O=C1CNC(C2=NC=CC=C2)([OH+:1][H:2])C2=C(C=CC=C2)N1.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7633,"O=C(C=CC1=CC=C(Cl)C=C1)C1=CC=C(N2CCN([S:1](=O)(C3=CC=C(Cl)C=C3)([O-:2])[Cl:3])CC2)C=C1.O=C([O-])O.[K+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,865,"C=CC[CH2:1][Br:2].CC(C)(C)O.CC(C)(C)OC(=O)[CH:3]=[C:4](C)[O:5][K]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4648,"CCCC1=CC(O)=CC(C)(C)[O+:1]1[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3661,"CCCCCC(C)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,155,"C1=C[CH:1]=[CH:2]N1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,3455,"C1CCC2([O-:1])NCCCC2C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
